.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-040
* Inductance = 4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-13.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-040_freq port1 port2 PARAMS: Cpar=0.041pF Ind=4nH
X1 port1 port2 Model2A PARAMS:
+ R1=13
+ R2=0.15
+ C= {Cpar}
+ K1=0.0000058
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7155.466168
.ends 1008CT-040_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-040
* Inductance = 4nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-13.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-040_imp port1 port2 PARAMS: Cpar=0.041pF Ind=4nH
X1 port1 port2 Model1D PARAMS:
+ R1=13
+ R2=0.15
+ C= {Cpar}
+ K1=0.0000058
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7155.466168
.ends 1008CT-040_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-080
* Inductance = 8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-080_freq port1 port2 PARAMS: Cpar=0.048pF Ind=8.1nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.22
+ C= {Cpar}
+ K1=0.0000107
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14113.30503
.ends 1008CT-080_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-080
* Inductance = 8nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-8.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-080_imp port1 port2 PARAMS: Cpar=0.048pF Ind=8.1nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.22
+ C= {Cpar}
+ K1=0.0000107
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14113.30503
.ends 1008CT-080_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-100
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-100_freq port1 port2 PARAMS: Cpar=0.078pF Ind=10nH
X1 port1 port2 Model2A PARAMS:
+ R1=10
+ R2=0.25
+ C= {Cpar}
+ K1=0.0000205
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11107.0639
.ends 1008CT-100_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-100
* Inductance = 10nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-6GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-100_imp port1 port2 PARAMS: Cpar=0.078pF Ind=10nH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=0.25
+ C= {Cpar}
+ K1=0.0000205
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11107.0639
.ends 1008CT-100_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-150
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-150_freq port1 port2 PARAMS: Cpar=0.075pF Ind=15nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.22
+ C= {Cpar}
+ K1=0.0000244
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15776.99759
.ends 1008CT-150_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-150
* Inductance = 15nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-5.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-150_imp port1 port2 PARAMS: Cpar=0.075pF Ind=15nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.22
+ C= {Cpar}
+ K1=0.0000244
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15776.99759
.ends 1008CT-150_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-200
* Inductance = 20nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-200_freq port1 port2 PARAMS: Cpar=0.119pF Ind=20nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.33
+ C= {Cpar}
+ K1=0.000022
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13717.74279
.ends 1008CT-200_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-200
* Inductance = 20nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-200_imp port1 port2 PARAMS: Cpar=0.119pF Ind=20nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.33
+ C= {Cpar}
+ K1=0.000022
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13717.74279
.ends 1008CT-200_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-300
* Inductance = 30nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-300_freq port1 port2 PARAMS: Cpar=0.057pF Ind=30nH
X1 port1 port2 Model2A PARAMS:
+ R1=17
+ R2=0.38
+ C= {Cpar}
+ K1=0.0000536
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25902.42215
.ends 1008CT-300_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-300
* Inductance = 30nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-4.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-300_imp port1 port2 PARAMS: Cpar=0.057pF Ind=30nH
X1 port1 port2 Model1D PARAMS:
+ R1=17
+ R2=0.38
+ C= {Cpar}
+ K1=0.0000536
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=25902.42215
.ends 1008CT-300_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-400
* Inductance = 40nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-400_freq port1 port2 PARAMS: Cpar=0.103pF Ind=39nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.43
+ C= {Cpar}
+ K1=0.0000544
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27590.67124
.ends 1008CT-400_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-400
* Inductance = 40nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-3.1GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-400_imp port1 port2 PARAMS: Cpar=0.103pF Ind=39nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.43
+ C= {Cpar}
+ K1=0.0000544
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=27590.67124
.ends 1008CT-400_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-500
* Inductance = 50nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-500_freq port1 port2 PARAMS: Cpar=0.094pF Ind=50nH
X1 port1 port2 Model2A PARAMS:
+ R1=12
+ R2=0.48
+ C= {Cpar}
+ K1=0.000066
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=35046.0206
.ends 1008CT-500_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-500
* Inductance = 50nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.8GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-500_imp port1 port2 PARAMS: Cpar=0.094pF Ind=50nH
X1 port1 port2 Model1D PARAMS:
+ R1=12
+ R2=0.48
+ C= {Cpar}
+ K1=0.000066
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=35046.0206
.ends 1008CT-500_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-600
* Inductance = 60nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-600_freq port1 port2 PARAMS: Cpar=0.087pF Ind=60nH
X1 port1 port2 Model2A PARAMS:
+ R1=12
+ R2=0.52
+ C= {Cpar}
+ K1=0.000076
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=44307.8648
.ends 1008CT-600_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-600
* Inductance = 60nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.7GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-600_imp port1 port2 PARAMS: Cpar=0.087pF Ind=60nH
X1 port1 port2 Model1D PARAMS:
+ R1=12
+ R2=0.52
+ C= {Cpar}
+ K1=0.000076
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=44307.8648
.ends 1008CT-600_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-700
* Inductance = 70nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-700_freq port1 port2 PARAMS: Cpar=0.078pF Ind=70nH
X1 port1 port2 Model2A PARAMS:
+ R1=11
+ R2=0.55
+ C= {Cpar}
+ K1=0.000105
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=56543.43274
.ends 1008CT-700_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-700
* Inductance = 70nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.6GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-700_imp port1 port2 PARAMS: Cpar=0.078pF Ind=70nH
X1 port1 port2 Model1D PARAMS:
+ R1=11
+ R2=0.55
+ C= {Cpar}
+ K1=0.000105
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=56543.43274
.ends 1008CT-700_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-800
* Inductance = 80nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-800_freq port1 port2 PARAMS: Cpar=0.094pF Ind=80nH
X1 port1 port2 Model2A PARAMS:
+ R1=14
+ R2=0.56
+ C= {Cpar}
+ K1=0.000104
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=46120.97185
.ends 1008CT-800_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-800
* Inductance = 80nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-800_imp port1 port2 PARAMS: Cpar=0.094pF Ind=80nH
X1 port1 port2 Model1D PARAMS:
+ R1=14
+ R2=0.56
+ C= {Cpar}
+ K1=0.000104
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=46120.97185
.ends 1008CT-800_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-900
* Inductance = 90nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-900_freq port1 port2 PARAMS: Cpar=0.081pF Ind=90nH
X1 port1 port2 Model2A PARAMS:
+ R1=14
+ R2=0.61
+ C= {Cpar}
+ K1=0.000105
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=59958.49254
.ends 1008CT-900_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-900
* Inductance = 90nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-2.3GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-900_imp port1 port2 PARAMS: Cpar=0.081pF Ind=90nH
X1 port1 port2 Model1D PARAMS:
+ R1=14
+ R2=0.61
+ C= {Cpar}
+ K1=0.000105
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=59958.49254
.ends 1008CT-900_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1008CT-101_freq port1 port2 PARAMS: Cpar=0.104pF Ind=100nH
X1 port1 port2 Model2A PARAMS:
+ R1=15
+ R2=0.63
+ C= {Cpar}
+ K1=0.00016
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=45105.46234
.ends 1008CT-101_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1008CT-101
* Inductance = 100nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.001GHz-1.9GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1008CT-101_imp port1 port2 PARAMS: Cpar=0.104pF Ind=100nH
X1 port1 port2 Model1D PARAMS:
+ R1=15
+ R2=0.63
+ C= {Cpar}
+ K1=0.00016
+ K2=0
+ K3= {Ind}
+ K4=0
+ K5=0
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=45105.46234
.ends 1008CT-101_imp

